US06433175B1
5-Methoxy-1-(4-chlorobutyl)indole-3-carboxaldehyde
To a stirred mixture of powdered potassium hydroxide in methyl sulfoxide is added dropwise a solution of 5-methoxyindole-3-carboxaldehyde in methyl sulfoxide. The mixture is stirred for 30 min and 1-bromo-4-chlorobutane is added dropwise. The mixture is stirred for 1 h and partitioned between ethyl acetate and water. The combined organic extracts are washed (water, brine), dried (sodium sulfate) and concentrated in vacuo to give the product.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 5-methoxyindole-3-carboxaldehyde | COC=1C=C2C(=CNC2=CC1)C=O | C10H9NO2
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
solvent | methyl sulfoxide | CS(=O)C | C2H6OS
product | 5-Methoxy-1-(4-chlorobutyl)indole-3-carboxaldehyde | COC=1C=C2C(=CN(C2=CC1)CCCCCl)C=O | C14H16ClNO2
